US04045520
Diethylphosphono-isocyanoacetic acid tert.-butyl ester
1 ml of an approximately 2 molar solution of butyllithium in hexane is added over a period of 15 minutes to a solution, cooled to -10° C., of 282 mg (2 mmols) of isocyanoacetic acid tert.-butyl ester in 3 ml of dry hexane (distilled over sodium), whilst stirring vigorously and in a nitrogen atmosphere. The suspension which forms is stirred for a further 10 minutes and a solution of 413 μl (2 mmols) of diethyl phosphorochloridate in 5 ml of dry hexane is then added over a period of 15 minutes. The reaction mixture is stirred for a further 30 minutes, then treated with 20 ml of benzene and 5 ml of water and stirred vigorously for a further 10 minutes. The organic phase is washed with 3 times 5 ml of saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated in vacuo. The residue is chromatographed on silica gel. Benzene/ethyl acetate, 3:1, elutes diethylphosphono-isocyanoacetic acid tert.-butyl ester as a pale yellow oil; IR spectrum (in methylene chloride): characteristic bands at 3.4; 4.64; 5.70; 7.30; 8.00; 8.70 and 9.80μ.

reactant | butyllithium | C(CCC)[Li]
reactant | isocyanoacetic acid tert.-butyl ester | 2 mmols, 282 mg | C(C)(C)(C)OC(C[N+]#[C-])=O | C7H11NO2
reactant | diethyl phosphorochloridate | 2 mmols, 413 μl | P(OCC)(OCC)(=O)Cl | C4H10ClO3P
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 3 ml | CCCCCC | C6H14
solvent | hexane | 5 ml | CCCCCC | C6H14
solvent | water | 5 ml | O | H2O
product | Diethylphosphono-isocyanoacetic acid tert.-butyl ester | C(C)(C)(C)OC(C([N+]#[C-])P(=O)(OCC)OCC)=O | C11H20NO5P
